US06747024B1
19.1) 10H-phenothiazine-2-carbothioamide
A reaction mixture comprising 3.4 g (14 mmoles) of 10H-phenothiazine-2-carboxamide (J. Org. Chem. (1961) 26, 1138-1143) and 3.4 g (8.4 mmoles) of Lawesson's reagent in solution in 40 ml of 1,4-dioxane to which 20 ml of pyridine is added is heated at 110° C. for 1 hour 30 minutes. The brown solution is then concentrated under vacuum and the residue is diluted in 200 ml of AcOEt and 100 ml of H2O. After stirring and decanting, the organic phase is washed successively with 100 ml of a 1N aqueous solution of HCl and 100 ml of salt water. After drying over sodium sulphate, filtration and evaporation of the solvent under vacuum, an orange powder is obtained. This powder is washed with Et2O, the filtrate is eliminated, and extraction is carried out with acetone. The acetonic filtrate is then concentrated under vacuum and the evaporation residue is then purified on a silica column (eluent: Heptane/AcOEt: 1/1 to 4/6). Orange powder. Melting point: 208-209° C.

reactant | 10H-phenothiazine-2-carboxamide | 14 mmoles, 3.4 g | C1=C(C=CC=2SC3=CC=CC=C3NC12)C(=O)N | C13H10N2OS
reactant | Lawesson's reagent | 8.4 mmoles, 3.4 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
solvent | 1,4-dioxane | 40 ml | O1CCOCC1 | C4H8O2
product | 10H-phenothiazine-2-carbothioamide | C1=C(C=CC=2SC3=CC=CC=C3NC12)C(N)=S | C13H10N2S2
